US08242134B2
2-[2-Oxo-1-((S)-1-phenyl-propylcarbamoyl)-butyl]-benzoic acid
A sealed mixture of 2-[((S)-1-phenyl-propylcarbamoyl)-methyl]-benzoic acid (409 mg, 1.38 mmol), propionic anhydride (10 ml) and 4-N,N-dimethylaminopyridine (15 mg) was heated under microwave irradiation at 150° C. for 20 min and partitioned between 1M HCl (50 ml) and ethyl acetate (100 ml). The organic layer was washed with sat. aq. NaHCO3 (2×50 ml) and brine and concentrated in vacuo. To the obtained residue methanol (25 ml) tetrahydrofurane (25 ml) and 2M aq. NaOH (50 ml) was added and stirred at r.t. for 1 hour. The organic volatiles were removed in vacuo and the pH was adjusted to 1 with 3M aq. HCl. The crude title product (495 mg) was separated by extraction with ethyl acetate (150 ml) and used in the next step without further purification. 1H NMR (500 MHz, DMSO-d6): a mixture of tautomers and diastereoisomers.

reactant | 2-[((S)-1-phenyl-propylcarbamoyl)-methyl]-benzoic acid | 1.38 mmol, 409 mg | C1(=CC=CC=C1)[C@H](CC)NC(=O)CC1=C(C(=O)O)C=CC=C1 | C18H19NO3
solvent | propionic anhydride | 10 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 2-[2-Oxo-1-((S)-1-phenyl-propylcarbamoyl)-butyl]-benzoic acid | O=C(C(C(N[C@@H](CC)C1=CC=CC=C1)=O)C1=C(C(=O)O)C=CC=C1)CC | C21H23NO4
